US07189741B2
B. Preparation of 3-{4-[1-(2-[1,3]dioxolan-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid
This compound was prepared following the procedure described in example 1 (part E) starting with 0.046 g (0.13 mmol) of 3-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester and 0.019 mL (0.16 mmol) of 2-(2-bromo-ethyl)-[1,3]dioxolane. After the described purification, 0.023 g (40% of yield) of the expected acid was obtained.

reactant | 3-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester | 0.13 mmol, 0.046 g | COC(C1=CC(=CC=C1)CN1CCC(CC1)C1=CNC2=CC=CC=C12)=O | C22H24N2O2
reactant | 2-(2-bromo-ethyl)-[1,3]dioxolane | 0.16 mmol, 0.019 mL | BrCCC1OCCO1 | C5H9BrO2
product | 3-{4-[1-(2-[1,3]dioxolan-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid | O1C(OCC1)CCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C26H30N2O4
